US05314880
N-Cyclohexyl-N-ethyl 4-(1H-benzimidazylmethyl)benzamide was prepared by the method of Example 9 starting with N-ethylcyclohexylamine and reacting with trimethylaluminium and ethyl 4-(1H-benzimidazylmethyl)benzoate.

reactant | N-ethylcyclohexylamine | C(C)NC1CCCCC1 | C8H17N
reactant | trimethylaluminium | C[Al](C)C
reactant | ethyl 4-(1H-benzimidazylmethyl)benzoate | N1(C=NC2=C1C=CC=C2)CC2=CC=C(C(=O)OCC)C=C2 | C17H16N2O2
product | N-Cyclohexyl-N-ethyl 4-(1H-benzimidazylmethyl)benzamide | C1(CCCCC1)N(C(C1=CC=C(C=C1)CN1C=NC2=C1C=CC=C2)=O)CC | C23H27N3O
